US05849757
Ethyl 5-amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate
A 3.91 g (37.6 mmol) portion of ethyl 6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate was suspended in 1 liter of a 1:1 mixture of methanol and 1,4-dioxane. This was mixed with 200 ml of Raney nickel and stirred for 10 minutes at room temperature. After completion of the reaction, the reaction solution was filtered and the resulting filtrate was concentrated. The resulting residue was dissolved in 300 ml of chloroform and filtered through celite. By concentrating the filtrate, 12.5 g (98%) of the title compound was obtained.

reactant | ethyl 6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | FC=1C(=C2C(C(=CN(C2=C(C1F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O)[N+](=O)[O-] | C16H13F3N2O5
reactant | methanol | CO | CH4O
catalyst | Raney nickel | 200 ml | [Ni] | Ni
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 5-amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate | 12.5 g, 98% | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C16H15F3N2O3
